US06586421B2
Preparation of tert-butyl (5aS*,10bS*)-9,10-dichloro-6-(2-phenoxyethyl)-1,4,5,5a,6,10b-hexahydroazepino[4,5-b]indole-3(2H)-carboxylate
Boc2O (0.59 g, 2.7 mmol) was added to a solution of 9,10-dichloro-6-(2-phenoxyethyl)-1,2,3,4,5,5a,6,10b-octahydroazepino[4,5-b]indole (0.85 g, 2.3 mmol) in THF (32 mL) followed by 10% aqueous NaOH (8 mL). After 2 h, the reaction was diluted with H2O (35 mL) and extracted with EtOAc (3×40 mL). The combined organic layers were washed with brine, dried over Na2SO4, decanted, and concentrated. The crude product was purified via column chromatography (Biotage, 40 M) with heptane/EtOAc (4:1) to give 0.60 g of the racemic product that was submitted for separation of the two enantiomers.

reactant | Boc2O | 2.7 mmol, 0.59 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | 9,10-dichloro-6-(2-phenoxyethyl)-1,2,3,4,5,5a,6,10b-octahydroazepino[4,5-b]indole | 2.3 mmol, 0.85 g | ClC1=C(C=2C3C(N(C2C=C1)CCOC1=CC=CC=C1)CCNCC3)Cl | C20H22Cl2N2O
reactant | NaOH | 8 mL | [OH-].[Na+]
solvent | THF | 32 mL | C1CCOC1 | C4H8O
solvent | H2O | 35 mL | O | H2O
product | tert-butyl (5aS*,10bS*)-9,10-dichloro-6-(2-phenoxyethyl)-1,4,5,5a,6,10b-hexahydroazepino[4,5-b]indole-3(2H)-carboxylate | 0.60 g | ClC1=C(C=2[C@H]3[C@@H](N(C2C=C1)CCOC1=CC=CC=C1)CCN(CC3)C(=O)OC(C)(C)C)Cl | C25H30Cl2N2O3
